US04210762
N-(3-trifluoromethylphenacyl) phthalamic acid (9.4 g, 0.027 mol) was added portionwise to conc. sulfuric acid (30 ml) at <10° C. The resultant solution was stirred for 20 hours at room temperature and poured into 600 ml of ice-water to yield 8.2 g of crude 2-[5-(3-trifluoromethylphenyl)-1,3-oxazol-2-yl]benzoic acid as a brown solid; ir (CHCl3) 1720 cm-1. The crude acid was used for subsequent synthesis is obtained.

reactant | N-(3-trifluoromethylphenacyl) phthalamic acid | 0.027 mol, 9.4 g | FC(C=1C=C(C(CNC(C=2C(C(=O)O)=CC=CC2)=O)=O)C=CC1)(F)F | C17H12F3NO4
reactant | sulfuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
product | 2-[5-(3-trifluoromethylphenyl)-1,3-oxazol-2-yl]benzoic acid | 8.2 g | FC(C=1C=C(C=CC1)C1=CN=C(O1)C1=C(C(=O)O)C=CC=C1)(F)F | C17H10F3NO3
